Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Near syncope.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with DM2, CHF s/p MVR in ___, presenting with an episode of 
near syncope on ___, had a similar episode about a week 
and a half ago. The patient reports that she was at Stop and 
Shop pushing the shopping cart when she felt that her head 
became heavy, her legs became weak and was assisted to the 
ground by her husband. She reports that she felt better with 
recumbency.  Pt states she feels like she is going "down down, 
down...like i am fading away." She was diaphoretic and 
nauseated, but denies chest pain or shortness of breath. She 
states that she was conscious throughout the entire episode and 
remembers the EMTs working on her. She denies  Declined 
transport to hospital but family convinced her to get worked up 
today and she was brought to the ED by her niece. Last echo in 
___ showed LVEF 60-70%, marked RA dilation, mild symmetric LVH, 
RVH, moderate to severe TR.

She denies confusion following the event, incontinence of bowels 
or bladder, history of seizures or a seizure disorder, fever, 
chills, headaches, changes in vision, loss of consciousness or 
head trauma. She states that she does have a non-productive 
cough which is new for her. Denies vertigo, dizziness, 
lightheadedness.

ED Course: 
- Initial Vitals/Trigger: 97.7 58 113/90 18 96% 
- EKG: SR @ 60, NA, NI, no STE

On transfer to the floor: Vitals: 98,53,138/77, 16, 99 on 2LNC 

ROS:
(+) Per HPI

 
Past Medical History:
Type II diabetes mellitus  
Hypertension  
s/p mechanical mitral valve replacement ___  
Atrial fibrillation on coumadin  
Hypothyroidism  
Hyperlipidema  
Depression  
Peptic ulcer disease - dx'd by EGD in ___, H.pylori + in 
___  
Diverticulosis on colonoscopy in ___  
L vitreous hemorrhage - followed by Dr. ___ for 
vitrectomy on ___  
R retinal detachment
 
Social History:
___
Family History:
Sister with breast ca. Another sister with ca of unknown 
etiology. No h/o GI disease, IBD.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

VS: Pulse: 58, RR: 16, BP: 127/69 92% RA
GENERAL: Older ___ woman lying in bed in NAD.
HEENT: L pupil round and reactive to light. R pupil not 
visualized due to scarring of eye. MMM. no LAD. no JVD. neck 
supple.
HEART: RRR S1/S2 heard. no murmurs/gallops/rubs.
LUNGS: CTAB. Decreased breath sounds on R throughout.
ABDOMEN: soft, nontender, nondistended. no guarding or rebound, 
no HSM.   
EXT: wwp, no edema. DPs, PTs 2+. 
SKIN: dry, no rash
NEURO/PSYCH: CNs II-XII intact to testing. ___ strength in upper 
and lower extremities bilaterally. 
Labs:  see above/below.

DISCHARGE PHYSICAL EXAM:

VS: Pulse: 58, RR: 16, BP: 127/69 92% RA
GENERAL: Older ___ woman lying in bed in NAD.
HEENT: L pupil round and reactive to light. R pupil not 
visualized due to scarring of eye. MMM. no LAD. no JVD. neck 
supple.
HEART: RRR S1/S2 heard. no murmurs/gallops/rubs.
LUNGS: CTAB. Decreased breath sounds on R throughout.
ABDOMEN: soft, nontender, nondistended. no guarding or rebound, 
no HSM.   
EXT: wwp, no edema. DPs, PTs 2+. 
SKIN: dry, no rash
NEURO/PSYCH: CNs II-XII intact to testing. ___ strength in upper 
and lower extremities bilaterally. 
Labs:  see above/below.

 
Pertinent Results:
___ 01:00PM BLOOD WBC-3.3* RBC-4.07* Hgb-11.2* Hct-34.8* 
MCV-86 MCH-27.5 MCHC-32.1 RDW-13.8 Plt ___
___ 07:40AM BLOOD ___ PTT-35.5 ___
___ 05:54PM BLOOD ___ PTT-42.3* ___
___ 07:40AM BLOOD Glucose-85 UreaN-34* Creat-1.8* Na-141 
K-4.1 Cl-102 HCO3-28 AnGap-15
___ 01:00PM BLOOD Glucose-84 UreaN-32* Creat-1.9* Na-139 
K-4.4 Cl-101 HCO3-28 AnGap-14
___ 03:35PM BLOOD cTropnT-<0.01
___ 07:40AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.0

CXR ___: Status post valvular replacement and CABG.  Moderate 
cardiomegaly with slightly enlarged central pulmonary arteries.  
The lung parenchyma is normal.  No evidence of pulmonary edema.  
No pneumonia, no fibrosis, no pleural effusions.  Normal 
mediastinal contours. 

 
Brief Hospital Course:
___ with afib on coumadin, diastolic CHF, s/p MVR in ___ who 
presents with a presyncopal episode.

ACTIVE ISSUES:
# Syncope/Pre-syncope: The patient presented with pre-syncope 
likely either vasovagal or orthostatic in origin based on 
history. EKG was unchanged from previous and troponins were 
negative. The patient was admitted and placed on telemetry. She 
was noted to be bradycardic into the ___ and her Toprol XL 
was held with improvment in her heart rate to the ___. It 
was thought that the pre-syncope could be a combination of 
diabetic dysautonomia and orthostasis secondary to excessive 
beta blockade. The patient did not have any further pre-syncopal 
episodes while in the hospital, nor was she orthostatic based on 
vital signs. She was discharged to follow up with her PCP as an 
outpatient for further managment of her medications.

# Diabetes mellitus: Pt's HbA1C was 6.6 in ___. Because of 
her elevated creatinine, the patient's metformin was 
discontinued and she was started on an insulin sliding scale 
while in the hospital. She should follow up as an outpatient for 
further management of her diabetes.

INACTIVE ISSUES:

# Chronic Kidney Disease: Pt's Cr is 1.9 which is around her 
baseline.

# Anemia: Pt's Hct is 34.8 which is around her baseline of 
___.

# Hypothyroidism: Free T4 is normal, TSH is on the lower limit 
of normal. ___ need to adjust synthroid as an outpatient.

TRANSITIONAL ISSUES:
- Patient will likely need a repeat echocardiogram to evaluate 
valvular heart disease. Last echocardiogram was in ___ and 
showed no signs of aortic stenosis.
- Will need outpatient followup of diabetes management as 
metformin is contraindicated in the setting of an elevated 
creatinine.
- ___ need ECHO and HOLTER as outpatient

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE Q8H 
2. Citalopram 10 mg PO QHS 
3. Furosemide 40 mg PO DAILY 
4. Levothyroxine Sodium 112 mcg PO DAILY 
5. Lisinopril 5 mg PO DAILY 
6. MetFORMIN (Glucophage) 1000 mg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QHS 
10. Simvastatin 40 mg PO DAILY 
11. travoprost *NF* 0.004 % OD qhs 
12. Warfarin 7.5 mg PO 4X/WEEK (___) 
13. Warfarin 2.5 mg PO 3X/WEEK (___) 

 
Discharge Medications:
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE Q8H 
2. Levothyroxine Sodium 112 mcg PO DAILY 
3. Lisinopril 5 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QHS 
6. Simvastatin 40 mg PO DAILY 
7. Citalopram 10 mg PO QHS 
8. Furosemide 40 mg PO DAILY 
9. travoprost *NF* 0.004 % OD qhs 
10. Warfarin 7.5 mg PO 5X/WEEK (___) 
PLEASE TAKE 7.5 Mg each evening on ___ through ___.  
11. Warfarin 5 mg PO 2X/WEEK (___) 
Take 5mg EACH EVENING on ___ and ___. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pre-Syncope
Mitral valve replacement in the past

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted on ___ with an episode of 
pre-syncope or near fainting. Your vital signs were monitored 
and your medications were adjusted. Your coumadin was managed 
while in the hospital to keep your blood thinned to protect your 
mitral valve. You were discharged to follow up with your primary 
care doctor to further investigate the cause of your fainting. 
Please consider getting a holter monitor and/or echocardiogram 
from your cardiologist to better evaluate your presyncope. We 
also are holding your beta-blocker given your heart rate was a 
little low. Please consider restarting this if your cardiologist 
is okay with this. 
Someone will come from ___ tomorrow to check your INR and send 
this value to ___. Please continue to wear 
your home oxygen as recommended.  We also stopped your Metformin 
given your Kidney function. Please discuss this with your 
Primary care doctor.
 
Followup Instructions:
___